US05585485
2-(2-amino-4-thiazolyl)-(Z)-2-(1-diphenylmethoxycarbonylpropoxyimino)acetic Acid
30 g of O-(1-diphenylmethoxycarbonylpropyl)hydroxylamine and 16.2 g of (2-amino-4-thiazolyl)glyoxylic acid are stirred for 1 hour at room temperature in 60 ml of dimethylformamide. The reaction mixture is diluted with dichloromethane, and washed with 2N hydrochloric acid and several times with water. After evaporating the dichloromethane phase, 41 g of the title compound remain as a solid residue.

reactant | O-(1-diphenylmethoxycarbonylpropyl)hydroxylamine | 30 g | C1(=CC=CC=C1)C(OC(=O)C(CC)ON)C1=CC=CC=C1 | C17H19NO3
reactant | (2-amino-4-thiazolyl)glyoxylic acid | 16.2 g | NC=1SC=C(N1)C(C(=O)O)=O | C5H4N2O3S
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2-amino-4-thiazolyl)-(Z)-2-(1-diphenylmethoxycarbonylpropoxyimino)acetic Acid | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(CC)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21N3O5S
